US08809372B2
To a stirred solution of diisopropylamine (0.283 mL, 2.01 mmol) in THF (15 mL) at −78° C. under nitrogen atmosphere was added 1.6M n-BuLi in hexane (1.25 mL, 2.01 mmol) slowly. The reaction mixture was stirred for 30 min at −5° C., cooled to −78° C., 2-(4-fluorophenyl)thiazole (300 mg, 1.67 mmol) in THF (5 mL) added, and then 4-acetyl pyridine (300 mg, 1.67 mmol) in THF (5 mL) added. The resulting mixture was stirred at −78° C. for 2 h. The reaction mixture was quenched with saturated NH4Cl solution (40 mL) and extracted with ethyl acetate (4×150 mL). The organic layer was dried over Na2SO4 and concentrated to obtain crude product. The crude product was purified by flash chromatography (100-200μ; 80% ethyl acetate in hexane) to afford 1-(2-(4-fluorophenyl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol as off-white solid (285 mg, 57% yield), HPLC purity 99.9%, mp 229-232° C. 1H NMR (400 MHz, DMSO-d6): δ 8.53 (d, 2H), 7.92 (t, 2H), 7.81 (s, 1H), 7.49 (d, 2H), 7.30 (t, 2H), 6.66 (s, 1H), 1.93 (s, 3H); LC-MS m/z calculated for [M+H]+ 301.07, found 301.6.

reactant | diisopropylamine | 2.01 mmol, 0.283 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | hexane | 2.01 mmol, 1.25 mL | CCCCCC | C6H14
reactant | 2-(4-fluorophenyl)thiazole | 1.67 mmol, 300 mg | FC1=CC=C(C=C1)C=1SC=CN1 | C9H6FNS
reactant | 4-acetyl pyridine | 1.67 mmol, 300 mg | C(C)(=O)C1=CC=NC=C1 | C7H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(2-(4-fluorophenyl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol | 285 mg, 57% yield | FC1=CC=C(C=C1)C=1SC(=CN1)C(C)(O)C1=CC=NC=C1 | C16H13FN2OS
